US07547710B2
To a solution of (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methanol (1.6 g, 4.2 mmol) in toluene (30 ml) was added thionyl chloride (0.61 ml, 8.4 mmol), and the mixture was heated under reflux for 30 min. The solvent was evaporated and the residue was dissolved in N,N-dimethylformamide (30 ml). Potassium phthalimide (1.2 g, 6.3 mmol) was added and the mixture was stirred at 55° C. for 1 hr. The reaction mixture was partitioned between ethyl acetate (50 ml) and water (50 ml) and the aqueous layer was extracted with ethyl acetate (50 ml). The extract and the organic layer were combined and the mixture was washed with saturated aqueous sodium hydrogen carbonate (50 ml) and then saturated brine (50 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated and toluene (20 ml)-ethyl acetate (10 ml) was added to the residue. Insoluble materials were filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography and crystallized from diisopropyl ether to give 2-[(6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1H-isoindole-1,3(2H)-dione (1.7 g, yield 82%) as pale-yellow crystals.

reactant | (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methanol | 4.2 mmol, 1.6 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CO)C1=CC=CC=C1 | C20H20BrNO
reactant | thionyl chloride | 8.4 mmol, 0.61 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Potassium phthalimide | 6.3 mmol, 1.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1H-isoindole-1,3(2H)-dione | 1.7 g, yield 82% | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C28H23BrN2O2
